US08067445B2
Step 2: 2-(3-Benzyloxy-5-trifluoromethyl-phenyl)-propionic acid ethyl ester
To a solution of (3-benzyloxy-5-trifluoromethyl-phenyl)-acetic acid ethyl ester (5.0 g, 14.8 mmol) in DMF (50 mL) at 0° C. under N2 was added sodium hydride (60% in mineral oil; 0.65 g, 16.3 mmol), and the mixture was stirred at room temperature for 15 minutes. Iodomethane (1 mL, 16.3 mmol) was added, and the reaction was monitored by analytical LCMS and tlc. After work-up with EtOAc and H2O, the crude material was purified by silica gel chromatography to give the title compound.

reactant | (3-benzyloxy-5-trifluoromethyl-phenyl)-acetic acid ethyl ester | 14.8 mmol, 5.0 g | C(C)OC(CC1=CC(=CC(=C1)C(F)(F)F)OCC1=CC=CC=C1)=O | C18H17F3O3
reactant | sodium hydride | 16.3 mmol, 0.65 g | [H-].[Na+]
reactant | Iodomethane | 16.3 mmol, 1 mL | IC | CH3I
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-(3-Benzyloxy-5-trifluoromethyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(C)C1=CC(=CC(=C1)C(F)(F)F)OCC1=CC=CC=C1)=O | C19H19F3O3
